US08648096B2
A stirred mixture of 3-methyl-phthalic dimethyl ester (12.1 g, 57.9 mmol) and N-bromosuccinimide (12.4 g, 69.5 mmol) in acetonitrile (150 mL) was heated at 70° C. (oil bath), while a 200 W light bulb situated 2 cm away was shining on the reaction mixture overnight. The resulting mixture was cooled and concentrated. The residue was dissolved in ethyl acetate (150 mL), washed with water (3×50 mL) and brine (50 mL), and dried (MgSO4). Solvent was removed in vacuo, and the residue was purified by flash chromatography (SiO2, Hexane:EtOAc 8:2) to give 3-bromomethyl-phthalic dimethyl ester (13.9 g, 83%) as a solid: 1H NMR (CDCl3) δ 7.94-7.90 (dd, J=1.1 and 7.9 Hz, 1H), 7.65-7.62 (dd, J=1.0 and 6.9 Hz, 1H), 7.47 (t, J=7.8H, 1H), 4.54 (s, 2H), 3.97 (s, 3H), 3.90 (s, 3H).

reactant | 3-methyl-phthalic dimethyl ester | 57.9 mmol, 12.1 g | COC(C=1C(C(=O)OC)=C(C=CC1)C)=O | C11H12O4
reactant | N-bromosuccinimide | 69.5 mmol, 12.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 3-bromomethyl-phthalic dimethyl ester | 13.9 g, 83% | COC(C=1C(C(=O)OC)=C(C=CC1)CBr)=O | C11H11BrO4
